US08563575B2
130e) 3-[4-(benzyloxy)phenyl]-1-ethyl-7-(trifluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of NaH (40.9 mg), 3-[4-(benzyloxy)phenyl]-7-(trifluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (197 mg) in DMF (dry) (3 mL) was added iodoethane (0.082 mL), and the mixture was stirred at room temperature for 3 h. To the mixture was added sat. NaHCO3 aq. and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated in vacuo to give the title compound (197 mg).

reactant | NaH | 40.9 mg | [H-].[Na+]
reactant | 3-[4-(benzyloxy)phenyl]-7-(trifluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 197 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2C(F)(F)F)=O | C20H14F3N3O2
reactant | iodoethane | 0.082 mL | ICC | C2H5I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[4-(benzyloxy)phenyl]-1-ethyl-7-(trifluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 197 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2C(F)(F)F)CC)=O | C22H18F3N3O2
